US04752611
A mixture of 5-amino-1-[4-(4-chlorobenzoyl)-3,5-dichlorobenzyl]-1,2,3-triazole-4-carboxamide (4.3 g), ethyl acetimidate hydrochloride (1.2 g) and absolute ethanol (50 ml) is heated at reflux under nitrogen for 20 hours. The reaction mixture is cooled and diluted with ethyl ether (50 ml). The solid is filtered and dried to give 5-((amino)ethylidine) amino)-1[4-(4-chlorobenzoyl)-3,5-dichlorobenzyl]-1,2,3-triazole-4-carboxamide hydrochloride.

reactant | 5-amino-1-[4-(4-chlorobenzoyl)-3,5-dichlorobenzyl]-1,2,3-triazole-4-carboxamide | 4.3 g | NC1=C(N=NN1CC1=CC(=C(C(=C1)Cl)C(C1=CC=C(C=C1)Cl)=O)Cl)C(=O)N | C17H12Cl3N5O2
reactant | ethyl acetimidate hydrochloride | 1.2 g | Cl.C(C)(OCC)=N
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1[4-(4-chlorobenzoyl)-3,5-dichlorobenzyl]-1,2,3-triazole-4-carboxamide hydrochloride | Cl.ClC1=CC=C(C(=O)C2=C(C=C(CN3N=NC(=C3)C(=O)N)C=C2Cl)Cl)C=C1 | InChI=1S/C17H11Cl3N4O2.ClH/c18-11-3-1-10(2-4-11)16(25)15-12(19)5-9(6-13(15)20)7-24-8-14(17(21)26)22-23-24;/h1-6,8H,7H2,(H2,21,26);1H
